Name:  ___            Unit No:   ___
 
Admission Date:  ___              Discharge Date:   ___
 
Date of Birth:  ___             Sex:   M
 
Service: SURGERY
 
Allergies: 
Lisinopril / simvastatin
 
Attending: ___
 
Chief Complaint:
right sided chest wall pain
 
Major Surgical or Invasive Procedure:
___:  placement of right chest tube

___:  removal of chest tube

 
History of Present Illness:
___ male sent in for evaluation of right-sided chest
pain and bruising over the past 2 days. Pain is worse with
movement. No chest pain at rest. No shortness of breath. No
pleuritic component. Patient denies any history of falls or
other trauma. He was seen at his PCPs office was noted to be
tachycardic and EKG with possible changes and ever since
emergency department further care and evaluation. No
weakness or numbness. No nausea no vomiting or diarrhea.

 
Past Medical History:
Hypertension, hyperlipidemia 
 
Social History:
___
Family History:
non-contributory
 
Physical Exam:
PHYSICAL EXAMINATION upon admission:  ___
 
Temp: 96.9 HR: 118 BP: 154/82 Resp: 20 O(2)Sat: 98 Normal
 
Constitutional: Patient is well-appearing and in no acute
distress
HEENT: Normocephalic, atraumatic
Neck is supple
Chest: Clear to auscultation, bruising with mild tenderness
over the right lateral chest wall
Cardiovascular: Regular Rate and Rhythm, Normal first and
second heart sounds
Abdominal: Soft, Nontender, Nondistended, few faint
scattered ecchymoses on the right abdomen and flank
Extr/Back: No cyanosis, clubbing or edema. 2+ radial and DP
pulses bilaterally, digits are warm well perfused
Skin: No rash, Warm and dry
Neuro: Speech fluent

Physical examination upon discharge:  ___:

General: NAD

CV: ns1, s2
LUNGS:  clear, mild chest wall tenderness right chest wall, no 
crepitus
ABDOMEN:  soft, non-tender
EXT: no pedal edema bil., no calf tenderness bil
NEURO:  alert and oriented x 3, speech clear
 

 
Pertinent Results:
___ 08:21AM BLOOD WBC-5.4 RBC-3.79* Hgb-12.7* Hct-36.7* 
MCV-97 MCH-33.5* MCHC-34.6 RDW-12.4 RDWSD-43.8 Plt ___
___ 08:38AM BLOOD WBC-5.0 RBC-3.47* Hgb-11.5* Hct-34.2* 
MCV-99* MCH-33.1* MCHC-33.6 RDW-12.7 RDWSD-45.8 Plt ___
___ 05:50PM BLOOD WBC-5.7 RBC-3.83* Hgb-12.8* Hct-37.5* 
MCV-98 MCH-33.4* MCHC-34.1 RDW-12.7 RDWSD-45.5 Plt ___
___ 05:50PM BLOOD Neuts-72.1* Lymphs-12.0* Monos-14.1* 
Eos-0.7* Baso-0.7 Im ___ AbsNeut-4.08 AbsLymp-0.68* 
AbsMono-0.80 AbsEos-0.04 AbsBaso-0.04
___ 08:21AM BLOOD Plt ___
___ 07:30PM BLOOD ___ PTT-25.6 ___
___ 08:21AM BLOOD Glucose-96 UreaN-23* Creat-1.4* Na-138 
K-4.3 Cl-101 HCO3-23 AnGap-14
___ 08:21AM BLOOD Glucose-109* UreaN-23* Creat-1.4* Na-138 
K-4.7 Cl-103 HCO3-23 AnGap-12
___ 08:38AM BLOOD Glucose-100 UreaN-35* Creat-1.4* Na-138 
K-4.4 Cl-100 HCO3-23 AnGap-15
___ 05:50PM BLOOD Glucose-117* UreaN-39* Creat-1.6* Na-139 
K-4.7 Cl-99 HCO3-25 AnGap-15
___ 10:04PM BLOOD cTropnT-<0.01
___ 05:50PM BLOOD cTropnT-<0.01
___ 08:21AM BLOOD Calcium-9.8 Phos-2.6* Mg-2.0

___:  CTA chest:

1. Moderate right pneumothorax with minimally displaced right 
fourth and fifth rib fractures. 
2. 1.2 cm non-obstructing left renal stone in the proximal 
ureter. 
3. Diverticulosis without evidence of acute inflammatory 
changes. 
4. Left inguinal hernia containing diverticular sigmoid colon. 
5. No evidence of thoracic or abdominal aortic aneurysm. 

___:  CXR:

. A chest tube projects over the right lung. 
2. Re-demonstrated moderate right pneumothorax, with right 
basilar atelectasis. No left pneumothorax. 
3. Right-sided rib fractures are better seen on the prior CTA. 

___: CXR:

Previously seen moderate right apical pneumothorax is now trace.

___:  CXR:

The right-sided pigtail catheter is unchanged.  The no obvious 
pneumothorax is seen.  Lungs are low volume with bibasilar 
atelectasis.  Cardiomediastinal silhouette is stable.  There is 
no pleural effusion. 

___:  CXR|:

  
Rightward mediastinal shift reflects persistent atelectasis, 
right lower lobe. Lungs are otherwise clear.  No appreciable 
pleural effusion.  Tiny right apical pneumothorax probably 
unchanged with apical pleural line projecting over the second 
posterior interspace.  Right pigtail pleural drainage catheter 
unchanged in position.  No left pleural abnormality.  Heart size 
normal. 

___:  CXR:

  
No pneumothorax. 
  

  

  

 
Brief Hospital Course:
___ year old male admitted to the hospital after a fall resulting 
in right sided ___ rib fractures and a right pneumothorax.  Upon 
admission, the patient was made NPO, and given intravenous 
fluids.  Imaging was reviewed and a right sided pigtail was 
placed.  The chest tube was placed to wall suction.  The 
patient's vital signs and oxygen saturation remained stable. In 
24 hours, the chest tube was placed to water seal with no 
evidence of a pneumothorax.  The chest tube was removed on HD # 
3.  Post chest tube removal showed right lung re-expansion.

The patient was discharged home on HD #3.  His vital signs and 
oxygen saturation were stable.   He was tolerating a regular 
diet and voiding without difficulty.  His rib pain was 
controlled with oral analgesia.  A follow-up appointment was 
made in the acute care clinic with chest x-ray prior to visit.  
Discharge instructions were reviewed and questions answered.     
  
 
Medications on Admission:
Active Medication list as of ___:  
 
 Medications - Prescription  
 PRAVASTATIN - pravastatin 80 mg tablet. TAKE 1 TABLET BY MOUTH 
EVERY DAY FOR CHOLESTEROL  
 VALSARTAN - valsartan 160 mg tablet. TAKE 1 TABLET BY MOUTH 
EVERY MORNING  
 
 Medications - OTC  
 ASPIRIN - aspirin 81 mg tablet,delayed release. tablet(s) by 
mouth - (OTC)  
 CYANOCOBALAMIN (VITAMIN B-12) - cyanocobalamin (vit B-12) 1,000 
mcg tablet. tablet(s) by mouth - (OTC)  

 
Discharge Medications:
1.  Acetaminophen 1000 mg PO Q8H  
2.  Docusate Sodium 100 mg PO BID  
3.  Lidocaine 5% Patch 1 PTCH TD QAM  
4.  Polyethylene Glycol 17 g PO DAILY:PRN Constipation - First 
Line  
5.  Senna 8.6 mg PO BID:PRN Constipation - Second Line  
6.  Valsartan 160 mg PO DAILY 
This med. was held during your hospitalization, monitor blood 
pressure and report results to PCP  
7.  Aspirin 81 mg PO DAILY  
8.  Pravastatin 80 mg PO QPM  

 
Discharge Disposition:
Home
 
Discharge Diagnosis:
s/p fall:

right sided rib fractures

right pneumothorax

1.2 left renal stone

elevated creatinine

 
Discharge Condition:
Mental Status: Clear and coherent.
Level of Consciousness: Alert and interactive.
Activity Status: Ambulatory - Independent.

 
Discharge Instructions:
You were admitted to the hospital after a fall resulting in 
right sided rib fractures and a collapsed right lung requiring a 
chest tube.  The tube expanded your lung and your oxygen level 
has been stable.  The chest tube was removed and you have 
continued to do well.  You are being discharged with the 
following instructions:  

Please call your doctor or nurse practitioner or return to the 
Emergency Department for any of the following:

*You experience new chest pain, pressure, squeezing or 
tightness.

*New or worsening cough, shortness of breath, or wheeze.

*If you are vomiting and cannot keep down fluids or your 
medications.

*You are getting dehydrated due to continued vomiting, diarrhea, 
or other reasons. Signs of dehydration include dry mouth, rapid 
heartbeat, or feeling dizzy or faint when standing.

*You see blood or dark/black material when you vomit or have a 
bowel movement.

*You experience burning when you urinate, have blood in your 
urine, or experience a discharge.

*You have shaking chills, or fever greater than 101.5 degrees 
Fahrenheit or 38 degrees Celsius.

*Any change in your symptoms, or any new symptoms that concern 
you.

Please resume all regular home medications , unless specifically 
advised not to take a particular medication. Also, please take 
any new medications as prescribed.

Please get plenty of rest, continue to ambulate several times 
per day, and drink adequate amounts of fluids. Avoid lifting 
weights greater than ___ lbs until you follow-up with your 
surgeon.

Avoid driving or operating heavy machinery while taking pain 
medications.

Because you sustained rib fractures, please use the incentive 
spirometer every 2 hours 5x while awake.  There is a risk of 
developing pneumonia.  Please return to the emergency room with 
fever, chill, cough, night sweats, change in sputum production.  


Your blood pressure medicine was held while you were here 
because of an elevated creatinine, a marker of kidney function.  
Please check your blood pressure at home or outside facility and 
report results to your primary care provider.  

 
Followup Instructions:
___